US04499094
Operations are carried out as for Example 1, starting from 4.3 g of 4-phenyl naphthalene 2-carboxylic acid, 20 ml of thionyl chloride and then 1.5 g of N-methyl 2-butanamine in 20 ml of pyridine. 3 g of N-methyl N(1-methyl propyl) 4-phenyl naphthalene 2-carboxamide, melting at 108° C., are obtained.

reactant | 4-phenyl naphthalene 2-carboxylic acid | 4.3 g | C1(=CC=CC=C1)C1=CC(=CC2=CC=CC=C12)C(=O)O | C17H12O2
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methyl 2-butanamine | 1.5 g | CNC(C)CC | C5H13N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl N(1-methyl propyl) 4-phenyl naphthalene 2-carboxamide | 3 g | CN(C(=O)C1=CC2=CC=CC=C2C(=C1)C1=CC=CC=C1)C(CC)C | C22H23NO
